US08633322B2
(S)—N-(pent-4-ynyl)-2-(2,2,2-trifluoroacetamido)butanamide (0.246 g, 0.93 mmol), 4-bromophenyl methyl sulfone (0.200 g, 0.85 mmol), triethylamine (5 ml), copper iodine (0.032 g, 0.17 mmol) and Pd(PPh3)2Cl2 (0.175 g, 0.25 mmol) were combined in anhydrous DMF (5 ml) and heated to 70° C. in a sealed tube overnight. The resulting mixture was then concentrated in vacuo and ethyl acetate (46 ml) was added to the remaining residue. The resulting mixture was washed with 1N HCl (2×23 ml), water (23 ml), brine (23 ml), dried (MgSO4) and concentrated in vacuo. The resulting residue was chromatographed eluting with ethyl acetate/heptanes (30:70) to yield a residue. The residue was dissolved in THF (0.5 ml)/MeOH (0.13 ml) and cooled to 0° C. 3N NaOH (0.10 ml, 0.30 mmol) was added, the resulting mixture was warmed to room temperature and stirred overnight. The resulting mixture was then diluted with water (0.25 ml) and concentrated in vacuo. The aqueous layer was extracted with methylene chloride (3×5 ml), dried (MgSO4) and concentrated in vacuo. The resulting residue was chromatographed eluting with methylene chloride/methanol (95:5) followed by elution with methylene chloride/methanol/ammonium hydroxide (95:5:0.4) to yield (S)-2-amino-N-(5-(4-(methylsulfonyl)phenyl)pent-4-ynyl)butanamide. ES-MS m/z 323 (MH+).

reactant | (S)—N-(pent-4-ynyl)-2-(2,2,2-trifluoroacetamido)butanamide | 0.93 mmol, 0.246 g | C(CCC#C)NC([C@H](CC)NC(C(F)(F)F)=O)=O | C11H15F3N2O2
reactant | 4-bromophenyl methyl sulfone | 0.85 mmol, 0.200 g | CS(=O)(=O)C1=CC=C(C=C1)Br | C7H7BrO2S
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | NaOH | 0.30 mmol, 3N, 0.10 ml | [OH-].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | MeOH | 0.13 ml | CO | CH4O
solvent | water | 0.25 ml | O | H2O
catalyst | copper iodine | 0.17 mmol, 0.032 g | [I].[Cu]
catalyst | Pd(PPh3)2Cl2 | 0.25 mmol, 0.175 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (S)-2-amino-N-(5-(4-(methylsulfonyl)phenyl)pent-4-ynyl)butanamide | N[C@H](C(=O)NCCCC#CC1=CC=C(C=C1)S(=O)(=O)C)CC | C16H22N2O3S
